US07109186B2
Compound 748: 1-{2-[4-(4-Fluoro-phenyl)piperazine-1-yl}-ethyl]-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide
Compound 748 was prepared from 1-(2,2-dimethoxy-ethyl)-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide and 1-(4-fluoro-phenyl)-piperazine using the method described for compound 747. The title compound was isolated as an amber foam (0.009 g, 25% yield). HRMS (M+H) calcd for C24H28N4Cl2O3F: 521.15226. found: 521.1531.

reactant | 1-(2,2-dimethoxy-ethyl)-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CC(OC)OC)C)C=CC1Cl | C17H20Cl2N2O5
reactant | 1-(4-fluoro-phenyl)-piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
product | 1-{2-[4-(4-Fluoro-phenyl)piperazine-1-yl}-ethyl]-4-hydroxy-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CCN2CCN(CC2)C2=CC=C(C=C2)F)C)C=CC1Cl | C25H27Cl2FN4O3
